US08865712B2
d) (R)-1-Amino-2-(6-bromo-3-fluoro-4-triethylsilanyl-pyridin-2-yl)-propan-2-ol hydrochloride
Borane dimethyl sulfide complex (16.55 g, 218 mmol) was added to a solution of crude (S)-2-(6-bromo-3-fluoro-4-triethylsilanyl-pyridin-2-yl)-2-trimethylsilanyloxy-propionitrile (47 g, 109 mmol) in 470 ml THF. The mixture was refluxed for 2 h. The heating bath was removed and the reaction mixture was quenched by careful and dropwise addition of MeOH. After the evolution of gas had ceased, aq. 6M HCl (23.6 ml, 142 mmol) was added slowly. The resulting solution was evaporated and the residue was dissolved in MeOH and evaporated (twice) to yield 44.5 g of a yellow foam, pure enough for further reactions. HPLC: RtH1=2.617 min; ESIMS: 363, 365 [(M+H)+, 1Br]; 1H-NMR (400 MHz, CDCl3): 7.93 (s, br, 3H), 7.53 (d, 1H), 6.11 (s, br, 1H), 3.36-3.27 (m, 1H), 3.18-3.09 (m, 1H), 1.53 (s, 3H), 0.99-0.81 (m, 15H).

reactant | (S)-2-(6-bromo-3-fluoro-4-triethylsilanyl-pyridin-2-yl)-2-trimethylsilanyloxy-propionitrile | 109 mmol, 47 g | BrC1=CC(=C(C(=N1)[C@](C#N)(C)O[Si](C)(C)C)F)[Si](CC)(CC)CC | C17H28BrFN2OSi2
reactant | HCl | 142 mmol, 6M, 23.6 ml | Cl | ClH
solvent | THF | 470 ml | C1CCOC1 | C4H8O
product | (R)-1-Amino-2-(6-bromo-3-fluoro-4-triethylsilanyl-pyridin-2-yl)-propan-2-ol hydrochloride | 44.5 g | Cl.NC[C@@](C)(O)C1=NC(=CC(=C1F)[Si](CC)(CC)CC)Br | InChI=1S/C14H24BrFN2OSi.ClH/c1-5-20(6-2,7-3)10-8-11(15)18-13(12(10)16)14(4,19)9-17;/h8,19H,5-7,9,17H2,1-4H3;1H/t14-;/m1./s1
